US06664265B2
N-(2-{2-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethyl)benzamide
1-[2-(2-Aminoethoxy)ethyl]-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine (750 mg, 2.28 mmol) was dissolved in 35 mL of anhydrous CH2Cl2 and cooled to 0° C. under N2. To the stirred solution were added Et3N (0.35 mL, 2.50 mmol) and benzoyl chloride (260 μL, 2.28 mmol) and the reaction was allowed to warm to room temperature over 2.5 h. The reaction mixture was then quenched by addition of saturated NaHCO3 solution (30 mL) and CH2Cl2 (30 mL). The organic layer was separated and washed with H2O and brine, dried over Na2SO4 and concentrated under reduced pressure to give a tan foam. Mass spectral analysis showed the presence of some bis-amide in addition to the desired product. The tan foam was treated with 1N aqueous HCl solution (50 mL) at 100° C. for 5 h. HPLC analysis showed that all of the bis-amide had been converted to the desired product. The reaction was cooled to room temperature and treated with 10% NaOH until the pH˜11. The mixture was extracted with CHCl3 (3×30 mL). The combined organic extracts were washed with H2O and brine, dried over Na2SO4 and concentrated under reduced pressure to give a yellow solid. Purification by column chromatography (SiO2, 5-10% MeOH/CHCl3) gave 100 mg of N-(2-{2-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethyl)benzamide as a white powder. m.p. 184-187° C.; MS 434 (M+H)+; 1H NMR (300 MHz, DMSO-d6) δ8.40 (m, 1 H); 8.06 (d, J=8.3 Hz, 1 H); 7.76-7.74 (m, 2 H); 7.60 (d, J=7.8 Hz, 1 H); 7.54-7.37 (m, 4 H); 7.19 (t, J=7.3 Hz, 1 H); 6.48 (s, 2 H); 4.79-4.72 (m, 2 H); 3.91-3.84 (m, 2 H); 3.78 (t, J=6.9 Hz, 2 H); 3.48 (t, J=5.5 Hz, 2 H); 3.25 (s, 3 H); 3.20 (t, J=6.3 Hz, 2 H); 13C (75 MHz, DMSO-d6) δ166.7, 152.0, 151.9, 145.2, 134.8, 132.7, 131.4, 128.6, 127.4, 126.7, 121.4, 120.5, 115.1, 70.4, 69.4, 69.2, 58.4, 45.5, 27.6.

reactant | 1-[2-(2-Aminoethoxy)ethyl]-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 2.28 mmol, 750 mg | NCCOCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCOC | C17H23N5O2
reactant | Et3N | 2.50 mmol, 0.35 mL | CCN(CC)CC | C6H15N
reactant | benzoyl chloride | 2.28 mmol, 260 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | CH2Cl2 | 35 mL | C(Cl)Cl | CH2Cl2
product | N-(2-{2-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethyl)benzamide | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCOCCNC(C2=CC=CC=C2)=O)CCOC | C24H27N5O3
